US07816387B2
Benzyl 2-amino-4-methyl-1H-imidazol-1-carboxylate
A mixture of N-benzyloxycarbonylguanidine 1.93 g (10 mmol), triethylamine 1.39 ml (10 mmol), chloroacetone 2.40 ml (30 mmol) and ethyl acetate 40 ml was stirred at 50° C. for 10 hours. The reaction solution was washed with water and an aqueous sodium chloride solution and dried on magnesium sulfate. After evaporation of the solvent, the residue was purified by a column chromatography on silica gel and further recrystallized from n-hexane to give 500 mg of the title compound (yield: 22%).

reactant | N-benzyloxycarbonylguanidine | 10 mmol, 1.93 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N | C9H11N3O2
reactant | triethylamine | 10 mmol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetone | 30 mmol, 2.40 ml | ClCC(C)=O | C3H5ClO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-amino-4-methyl-1H-imidazol-1-carboxylate | 500 mg, yield: 22% | NC=1N(C=C(N1)C)C(=O)OCC1=CC=CC=C1 | C12H13N3O2
